US07652015B2
Add 8 mL of a 4 M solution of HCl in Et20 to 1.2 g of 4-(4-Nitro-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester and stir the suspension for 4 hours. Evaporate the solvent and triturate the remaining solid with Et2O to afford 1.1 g of 4-nitro-2-(piperidin-4-yloxy)-pyridine dihydrochloride as a pale yellow solid (100% yield) (ES+(Q/z)=224 [M+H].

reactant | HCl | Cl | ClH
reactant | 4-(4-Nitro-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 1.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=CC(=C1)[N+](=O)[O-] | C15H21N3O5
product | 4-nitro-2-(piperidin-4-yloxy)-pyridine dihydrochloride | 1.1 g, 100% yield | Cl.Cl.[N+](=O)([O-])C1=CC(=NC=C1)OC1CCNCC1 | InChI=1S/C10H13N3O3.2ClH/c14-13(15)8-1-6-12-10(7-8)16-9-2-4-11-5-3-9;;/h1,6-7,9,11H,2-5H2;2*1H
